US04252814
Preparation of S-Cyanomethyl Thiobenzoate
Sodium methoxide (5.13 g; 0.095 mol) is added with stirring to an ice cold solution of thiobenzoic acid (13.8 g; 0.095 mol) in THF (100 ml). A yellow slurry forms. Next, chloroacetonitrile (6.45 ml; 0.10 mol) is added, and the reaction mixture stirred overnight at room temperature. It is then filtered, and the filtrate concentrated in vacuo to yield a yellow oil. This oil is dissolved in ether, the solution washed with saturated sodium bicarbonate solution, saturated salt solution, dried over sodium sulfate and concentrated in vacuo. The residual oil is distilled (boiling point 105°-106° C. at 10.5 mm) to afford 12.8 g (76%) of title product, a yellow oil.

reactant | Sodium methoxide | 0.095 mol, 5.13 g | C[O-].[Na+]
reactant | thiobenzoic acid | 0.095 mol, 13.8 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | chloroacetonitrile | 0.10 mol, 6.45 ml | ClCC#N | C2H2ClN
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | S-Cyanomethyl Thiobenzoate | 12.8 g, 76% | C(C1=CC=CC=C1)(=O)SCC#N | C9H7NOS
